US09278910B2
Prepared using General Procedure 13. To a stirred solution of methyl 2-aminoacetate hydrochloride (5.07 g, 40.4 mmol) and 4-(bromomethyl)benzonitrile (7.20 g, 36.7 mmol) in DMF (40 mL) was added potassium carbonate (11.2 g, 81 mmol). After stirring at room temperature for 3 h the reaction mixture was diluted with water (300 mL) and the product extracted into EA (200 mL). The organics were washed with water (200 mL), dried over MgSO4 and concentrated in vacuo. The crude product was purified by chromatography (MeOH/DCM) to afford 1.6 g (21%) of methyl 2-((4-cyanobenzyl)amino)acetate INT-73 as a clear oil. LCMS-ESI (m/z) calculated for C11H12N2O2: 204; found 205 [M+H]+, tR=0.4 min (Method 10).

reactant | methyl 2-aminoacetate hydrochloride | 40.4 mmol, 5.07 g | Cl.NCC(=O)OC
reactant | 4-(bromomethyl)benzonitrile | 36.7 mmol, 7.20 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | potassium carbonate | 81 mmol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | methyl 2-((4-cyanobenzyl)amino)acetate | 1.6 g, 21% | C(#N)C1=CC=C(CNCC(=O)OC)C=C1 | C11H12N2O2
